US04234588
(b)(i) 2-Nitroamino-5-(3-pyridylmethyl)-4-pyrimidone (12.36 g) was added to a stirred mixture of 2-(5-furylmethylthio)ethylamine hydrochloride (10.65 g) and sodium ethoxide (prepared from 1.26 g sodium) in dry ethanol (300 ml) and the mixture was boiled under reflux for 44 hours and evaporated to dryness. The residue was triturated with water (discarded) and recrystallised from aqueous 2-propanol to give 2-[2-(2-furylmethylthio)ethylamino]-5-(3-pyridylmethyl)-4-pyrimidone, m.p. 136°-139°.

reactant | 2-Nitroamino-5-(3-pyridylmethyl)-4-pyrimidone | 12.36 g | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC=1C=NC=CC1 | C10H9N5O3
reactant | 2-(5-furylmethylthio)ethylamine hydrochloride | 10.65 g | Cl.O1C=CC=C1CSCCN
reactant | sodium ethoxide | 1.26 g | [O-]CC.[Na+]
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2-[2-(2-furylmethylthio)ethylamino]-5-(3-pyridylmethyl)-4-pyrimidone | O1C(=CC=C1)CSCCNC1=NC=C(C(N1)=O)CC=1C=NC=CC1 | C17H18N4O2S
